US05073629
1.05 g of ethyl 6,6-diphenyl-8-dimethylaminonona-2,4-dienoate was dissolved in toluene (5 ml) and evaporated to dryness twice. The oil was taken up in 95% ethanol (25 ml) and placed in a Paar shaker bottle with 10% palladium on activated carbon (Pd/C, 190 mg). Paar shaker hydrogenation was conducted at room temperature and 60 psi pressure. After 1 hour, an additional 150 mg of catalyst were added and the hydrogenation reaction continued for 3 hours. TLC indicated complete reaction. The catalyst was removed by filtration, and the filtrate was concentrated to dryness to provide 863 mg of ethyl 6,6-diphenyl-8-dimethylaminononanoate, as a clear light yellow oil.

reactant | ethyl 6,6-diphenyl-8-dimethylaminonona-2,4-dienoate | 1.05 g | C1(=CC=CC=C1)C(C=CC=CC(=O)OCC)(CC(C)N(C)C)C1=CC=CC=C1 | C25H31NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 6,6-diphenyl-8-dimethylaminononanoate | 863 mg | C1(=CC=CC=C1)C(CCCCC(=O)OCC)(CC(C)N(C)C)C1=CC=CC=C1 | C25H35NO2
